US08372837B2
To a mixture of 4-(5-chloro-4-hydroxy-2-oxopyridin-1(2H)-yl)-2-fluorobenzonitrile (193 mg, 0.729 mmol), tert-butyl 4-hydroxy-3-methylpiperidine-1-carboxylate (173 mg, 0.802 mmol) and triphenylphosphine (230 mg, 0.875 mmol) in THF (2.0 mL) was added DEAD (0.129 mL, 0.875 mmol). The resulting mixture was stirred at room temperature overnight and then evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel (0-100% EtOAc/hexane) to yield trans-tert-butyl 4-(5-chloro-1-(4-cyano-3-fluorophenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)-3-methylpiperidine-1-carboxylate (183.5 mg, 50.1%) as an orange solid. 1H NMR (400 MHz, DMSO): 6 ppm 7.99-8.15 (m, 2H), 7.80 (dd, J=10.55, 1.76 Hz, 1H), 7.55 (dd, J=8.35, 1.76 Hz, 1H), 6.21 (s, 1H), 4.67-4.84 (m, 1H), 3.52 (app br s, 2H), 3.18 (app br s, 2H), 1.99 (app br s, 1H), 1.82 (app br s, 1H), 1.62-1.73 (m, 1H), 1.40 (s, 9H), 0.90 (d, J=7.03 Hz, 3H). MS (ESI) 406 (M−56+H).

reactant | 4-(5-chloro-4-hydroxy-2-oxopyridin-1(2H)-yl)-2-fluorobenzonitrile | 0.729 mmol, 193 mg | ClC=1C(=CC(N(C1)C1=CC(=C(C#N)C=C1)F)=O)O | C12H6ClFN2O2
reactant | tert-butyl 4-hydroxy-3-methylpiperidine-1-carboxylate | 0.802 mmol, 173 mg | OC1C(CN(CC1)C(=O)OC(C)(C)C)C | C11H21NO3
reactant | triphenylphosphine | 0.875 mmol, 230 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.875 mmol, 0.129 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | trans-tert-butyl 4-(5-chloro-1-(4-cyano-3-fluorophenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)-3-methylpiperidine-1-carboxylate | 183.5 mg, 50.1% | ClC=1C(=CC(N(C1)C1=CC(=C(C=C1)C#N)F)=O)O[C@H]1[C@@H](CN(CC1)C(=O)OC(C)(C)C)C | C23H25ClFN3O4
